US04309351
Preparation of (3S,4S)-3-t-butyloxy-4-fluoro-1-octyne
Isobutylene (7 ml) was condensed from a cylinder below -20° under N2 and diluted with precooled 25 ml CH2Cl2. This solution was cooled to -60° and there was added 2.9 g (21 mmol) of (3S,4S)-4-fluoro-1-octyne-3-ol, in 15 ml of CH2Cl2, 0.70 ml of BF3 etherate and 0.34 ml of anhydrous H3PO4, in the order given. The mixture was allowed to warm to 0°-15° and stirred for 40 min at that temperature. The resulting pale yellow solution was cooled again to -50° and poured into a vigorously stirred solution of saturated sodium bicarbonate (70 ml) kept cool in an ice water bath. The heterogeneous mixture was agitated vigorously until the organic layer became basic towards pH paper. The CH2Cl2 layer was separated, washed with water (40 ml ) and brine (30 ml) and dried over anhydrous Na2SO4. Concentration on a rotary evaporator afforded 9.87 g of a colorless oil which was chromatographed on 70 g of silica gel. Less polar impurities were eluted with hexane. Elution with pentane-ether 9:1 (100 ml) gave the crude t-butyloxy fluorooctyne, which on distillation under vacuum (bp 57° at 3-4 min) gave 3.69 g (91%) of pure material.

reactant | Isobutylene | 7 ml | CC(C)=C | C4H8
reactant | (3S,4S)-4-fluoro-1-octyne-3-ol | 21 mmol, 2.9 g | F[C@H]([C@H](C#C)O)CCCC | C8H13FO
reactant | BF3 | 0.70 ml | B(F)(F)F | BF3
reactant | H3PO4 | 0.34 ml | OP(=O)(O)O | H3O4P
reactant | sodium bicarbonate | 70 ml | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | (3S,4S)-3-t-butyloxy-4-fluoro-1-octyne | 9.87 g | C(C)(C)(C)O[C@@H](C#C)[C@H](CCCC)F | C12H21FO
